US09108936B2
A mixture of 4-morpholin-4-yl-pent-3-en-2-one (2.50 g, 14.8 mmol) and ethyl 4,4,4-trifluoro-3-oxobutanoate (3.0 g, 16.3 mmol) in acetic acid (40 ml) is heated at 120° C. for 3 h. After completion of the reaction (monitored by TLC), the solvent is distilled off, the residue is taken up in water (20 ml) and the pH of the mixture was adjusted to pH=8 with 25% aqueous ammonia. The aqueous layer is extracted with ethyl acetate (2×20 ml) and the combined organic layers are dried over sodium sulfate, evaporated and the crude product is purified by column chromatography (silica gel, 10% ethyl acetate/cyclohexane) to afford 2-methyl-4-morpholin-4-yl-6-(trifluoromethyl)-benzoic acid ethyl ester (1.55 g, 4.89 mmol, 33%).

reactant | 4-morpholin-4-yl-pent-3-en-2-one | 14.8 mmol, 2.50 g | N1(CCOCC1)C(=CC(C)=O)C | C9H15NO2
reactant | ethyl 4,4,4-trifluoro-3-oxobutanoate | 16.3 mmol, 3.0 g | FC(C(CC(=O)OCC)=O)(F)F | C6H7F3O3
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-4-morpholin-4-yl-6-(trifluoromethyl)-benzoic acid ethyl ester | 4.89 mmol, 1.55 g, 33% | C(C)OC(C1=C(C=C(C=C1C(F)(F)F)N1CCOCC1)C)=O | C15H18F3NO3
